US08629270B2
tert-Butyl-6a-phenyl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate
Dichloromethane (5.26 mL) is added to 6a-phenyl-1,3,3a,4,5,6-hexahydropyrrolo[3,4-c]isoxazole (100 mg, 525.64 mmol). Di-t-butyldicarbonate (108.98 mg, 499.36 mmol) is added to the mixture followed by triethylamine (0.146 mL, 1.05 mmol) and the mixture is stirred for 2 hr. The solvent is removed under reduced pressure. The product is purified via silica gel chromatography eluting with 0-100% ethyl acetate/hexanes to give the title compound as a clear oil (143 mg, 94%). EI/MS (m/e): 291.0 (M+H).

reactant | 6a-phenyl-1,3,3a,4,5,6-hexahydropyrrolo[3,4-c]isoxazole | 525.64 mmol, 100 mg | C1(=CC=CC=C1)C12NOCC1CNC2 | C11H14N2O
reactant | Di-t-butyldicarbonate | 499.36 mmol, 108.98 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.05 mmol, 0.146 mL | C(C)N(CC)CC | C6H15N
solvent | Dichloromethane | 5.26 mL | ClCCl | CH2Cl2
product | tert-Butyl-6a-phenyl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate | 143 mg, 94% | C(C)(C)(C)OC(=O)N1CC2(NOCC2C1)C1=CC=CC=C1 | C16H22N2O3
